US08383657B2
3-(6-chloropyridin-3-yl)-5-methyl-1,3-thiazol-2(3H)-imine hydrochloride
The title compound was prepared from 5-amino-2-chloropyridine hydrochloride and 2-thiocyanatopropanal as described for Example 160A. The title compound was used without additional purification.

reactant | 5-amino-2-chloropyridine hydrochloride | Cl.NC=1C=CC(=NC1)Cl
reactant | 2-thiocyanatopropanal | S(C#N)C(C=O)C | C4H5NOS
product | 3-(6-chloropyridin-3-yl)-5-methyl-1,3-thiazol-2(3H)-imine hydrochloride | Cl.ClC1=CC=C(C=N1)N1C(SC(=C1)C)=N | InChI=1S/C9H8ClN3S.ClH/c1-6-5-13(9(11)14-6)7-2-3-8(10)12-4-7;/h2-5,11H,1H3;1H
